US06399774B1
Ethyl-2-fluoro-4-trimethylsilanylethynyl-benzoate (Intermediate 7)
A solution of ethyl-2-fluoro-4-trifluoromethylsulfonyloxy-benzoate Intermediate 6, 1.82 g, 6 mmol) in triethyl amine (12 mL) and anhydrous tetrahydrofuran (30 mL) was treated with copper(I)iodide (0.12 g, 0.6 mmol) and sparged with argon. Dichlorobis(triphenylphosphine)palladium(II) (0.43 g, 0.6 mmol) was added followed by (trimethylsilyl)acetylene (3.6 mL, 24 mmol) and the resulting reaction mixture was heated at 70° C. overnight. It was then cooled to ambient temperature, diluted with diethyl ether and filtered over a bed of celite. The filtrate was evaporated in vacuo to an oil which was subjected to flash column chromatography over silica gel (230-400 mesh) using 5% ethyl acetate in hexane as the eluent to afford the title compound as an orange oil (1.5 g, quantitative).

reactant | ethyl-2-fluoro-4-trifluoromethylsulfonyloxy-benzoate | C(C)OC(C1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)F)=O | C10H8F4O5S
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | (trimethylsilyl)acetylene | 24 mmol, 3.6 mL | C[Si](C)(C)C#C | C5H10Si
solvent | triethyl amine | 12 mL | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | copper(I)iodide | 0.6 mmol, 0.12 g | [Cu]I
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.6 mmol, 0.43 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Ethyl-2-fluoro-4-trimethylsilanylethynyl-benzoate | 1.5 g | C(C)OC(C1=C(C=C(C=C1)C#C[Si](C)(C)C)F)=O | C14H17FO2Si
